US05071844
(S)-1-(4-Methoxyphenethyl)-2-methylproline
A mixture of (S)-2-methylproline (1.47 g) (prepared by the method of D. Seebach et al., JACS, 105, 5390 (1983)), 4-methoxyphenethyl bromide (1.72 g) and sodium carbonate (2.12 g) in ethanol (30 ml) was heated under reflux for 48 hours, adjusted to pH8 with 2M hydrochloric acid, treated with glacial acetic acid to pH7, filtered and evaporated under reduced pressure. The residue was triturated with ethanol, filtered and evaporated under reduced pressure to give the title compound as a brown gum, (1.55 g), which was used directly in Preparation 10 without further purification.

reactant | (S)-2-methylproline | 1.47 g | C[C@@]1(NCCC1)C(=O)O | C6H11NO2
reactant | 4-methoxyphenethyl bromide | 1.72 g | COC1=CC=C(CCBr)C=C1 | C9H11BrO
reactant | sodium carbonate | 2.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-1-(4-Methoxyphenethyl)-2-methylproline | 1.55 g | COC1=CC=C(CCN2[C@](C(=O)O)(CCC2)C)C=C1 | C15H21NO3
